US06861418B2
To a solution of (5-methyl-1H-pyrrol-3-yl)-acetic acid (8.2 mmol) in TFA (6 mL) at 0° C. was added triethyl orthoformate (6 mL), it was then at 0° C. for 10 mins and at rt for 0.5 hours. The reaction was poured into water, extracted with ethyl acetate, dried and concentrated. The residue was purified on a silica gel column to give 1.15 g (84%) of (2-formyl-5-methyl-1H-pyrrol-3-yl) acetic acid.

reactant | (5-methyl-1H-pyrrol-3-yl)-acetic acid | 8.2 mmol | CC1=CC(=CN1)CC(=O)O | C7H9NO2
reactant | triethyl orthoformate | 6 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | water | O | H2O
solvent | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2-formyl-5-methyl-1H-pyrrol-3-yl) acetic acid | 1.15 g, 84% | C(=O)C=1NC(=CC1CC(=O)O)C | C8H9NO3
